US05414140
Preparation of CF3CF2CF2OCF(CF3)CHO
A 3-necked round bottom flask equipped with a dropping funnel and reflux condenser was charged with 10% Pd/C(0.35 g) and cooled to 0° C. Triisopropylsilane (6.0 g) was added. CF3CF2CF2OCF(CF3)COCl (10.9 g) was added, and the mixture was stirred at 25° C. for 75 hr. During this period, a total of 0.5 g of additional catalyst was added in ca. 0.1 g increments. Vacuum transfer and separation of the lower layer after chilling at -25° C. provided 5.26 g of liquid. 1H NMR (THF-d8 /F11): 9.9 (m). 19F NMR: -79.4 (m), -81.1 (s), -81.4 (t, J=7.2), -129.5 (s), -138.8 (m). 1H-decoupling experiment showed JHCCFCa. 2.5 Hz.

reactant | Triisopropylsilane | 6.0 g | C(C)(C)[SiH](C(C)C)C(C)C | C9H22Si
reactant | CF3CF2CF2OCF(CF3)COCl | 10.9 g | C(F)(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(=O)Cl | C6ClF11O2
catalyst | Pd/C | 0.35 g | [Pd] | Pd
product | CF3CF2CF2OCF(CF3)CHO | 5.26 g | C(F)(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C=O | C6HF11O2
